US07648983B2
(S)-4-Methyl-4-(3-pyrimidin-5-yl-phenyl)-5,6-dihydro-4H-[1,3]thiazin-2-ylamine Dihydrochloride
A solution of (S)-N-[4-Methyl-4-(3-pyrimidin-5-yl-phenyl)-5,6-dihydro-4H-[1,3]thiazin-2-yl]-acetamide (2.7 g, 8.3 mmoles, 1.0 equiv) is stirred in 5N hydrogen chloride (50 mL, 250 mmoles, 30 equiv) at 100° C. for 2 h. The reaction is cooled and the volatiles are removed under reduced pressure. The resulting residue is dissolved in water and extracted with ethyl acetate. The aqueous phase is neutralized with saturated aqueous sodium bicarbonate and extracted ethyl acetate. The organic phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a residue. The residue is filtered through a silica gel plug and washed with ethyl acetate. The silica gel plug is further washed with ethyl acetate containing ethyl acetate and 10% isopropyl amine. The 10% isopropyl amine in ethyl acetate wash is collected and the solvent removed under reduced pressure. The resulting free amine is dissolved in a solution of 100 mL of water containing 14 mL of 1 N HCl. The resulting solution is freeze dried to give the title compound (81% yield): MS (m/z): 285 (M+1).

reactant | (S)-N-[4-Methyl-4-(3-pyrimidin-5-yl-phenyl)-5,6-dihydro-4H-[1,3]thiazin-2-yl]-acetamide | 8.3 mmoles, 2.7 g, 1.0 equiv | C[C@@]1(N=C(SCC1)NC(C)=O)C1=CC(=CC=C1)C=1C=NC=NC1 | C17H18N4OS
reactant | hydrogen chloride | 250 mmoles, 5N, 50 mL, 30 equiv | Cl | ClH
product | (S)-4-Methyl-4-(3-pyrimidin-5-yl-phenyl)-5,6-dihydro-4H-[1,3]thiazin-2-ylamine Dihydrochloride | 81% yield | Cl.Cl.C[C@@]1(N=C(SCC1)N)C1=CC(=CC=C1)C=1C=NC=NC1 | InChI=1S/C15H16N4S.2ClH/c1-15(5-6-20-14(16)19-15)13-4-2-3-11(7-13)12-8-17-10-18-9-12;;/h2-4,7-10H,5-6H2,1H3,(H2,16,19);2*1H/t15-;;/m0../s1
